US06528510B1
3-(4-tert-Butyl-2-nitro-phenyl)-2-oxo-propionic acid ethyl ester
The title compound was prepared by adapting the procedure described by Gagliardi S., el al., in J. Med. Chem., 1998;41:1568 using potassium (1.66 g, 42.4 mmol), Et2O (200 mL), EtOH (10 mL), diethyl oxalate (7.56 g, 51.8 mmol), and 4-tert-butyl-1-methyl-2-nitrobenzene (prepared in ExampleWW; 10.0 g, 51.8 mmol). MS(APCI): 294 (M+H).

reactant | potassium | 42.4 mmol, 1.66 g | [K] | K
reactant | Et2O | 200 mL | CCOCC | C4H10O
reactant | diethyl oxalate | 51.8 mmol, 7.56 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-tert-butyl-1-methyl-2-nitrobenzene | 51.8 mmol, 10.0 g | C(C)(C)(C)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H15NO2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-(4-tert-Butyl-2-nitro-phenyl)-2-oxo-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)C(C)(C)C)[N+](=O)[O-])=O)=O | C15H19NO5
